US04100026
3.2 g. of 1α,2α-methylene-4-androstene-3,17-dione is dissolved in 50 ml. of absolute ethanol, cooled to 0° C., and mixed with 0.5 g. of sodium borohydride in incremental portions. After a reaction period of 3 hours with ice cooling. The mixture is stirred into 50 ml. of semisaturated sodium dihydrogen phosphate solution. The thus-precipitated product is filtered off and washed with water. After recrystallization from ethanol, 1.95 g. of 17β-hydroxy-1α,2α-methylene-4-androsten-3-one is obtained and gives after acetylation with acetic anhydridepyridine at room temperature, strongly anabolic 17β-acetoxy-1α,2α-methylene-4,6-androsten-3-one, "Arzneim. Forschung" (Drug Research) 15 (1965) : 1168.

reactant | 1α,2α-methylene-4-androstene-3,17-dione | C1[C@H]2[C@@H]1C(C=C1CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]21C)=O)=O | C20H26O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 17β-hydroxy-1α,2α-methylene-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC([C@H]4[C@@H]([C@]3(C)[C@H]1CC2)C4)=O | C20H28O2
